US08357717B2
Stage 1: 2-tert-Butyl 7-methyl 3,4-dihydroisoquinoline-2,7(1H)-dicarboxylate
Triethylamine (6.08 g, 0.0043 mol) and di-tert-butyl dicarbonate (5.6 g, 0.026 mol) were added at 0° C. to a solution of methyl 1,2,3,4-tetrahydroisoquinoline-7-carboxylate hydrochloride (5 g, 0.021 mol) in dichloromethane (42 ml), and the resulting reaction mixture was stirred for 16 h. Dist. water was added to the reaction mixture, and the phases were separated. The organic phase was washed 1× with each of 1 M HCl and sat. NaCl solution, dried (Na2SO4), filtered and concentrated in vacuo. The resulting crude product was used directly in the following stage. Yield: 7.9 g (>99%).

reactant | Triethylamine | 0.0043 mol, 6.08 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.026 mol, 5.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 1,2,3,4-tetrahydroisoquinoline-7-carboxylate hydrochloride | 0.021 mol, 5 g | Cl.C1NCCC2=CC=C(C=C12)C(=O)OC
reactant | water | O | H2O
solvent | dichloromethane | 42 ml | ClCCl | CH2Cl2
product | 2-tert-Butyl 7-methyl 3,4-dihydroisoquinoline-2,7(1H)-dicarboxylate | C1N(CCC2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C | C16H21NO4
